* ============================================================
* Standard Cell Library — SKY130 TT Corner
* ============================================================

* ── Inverter Family ─────────────────────────────────────────

.subckt invx1 A Y VDD VSS
XMN Y A VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15
XMP Y A VDD VDD sky130_fd_pr__pfet_01v8 w=1.00 l=0.15
.ends invx1

.subckt invx2 A Y VDD VSS
XMN Y A VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMP Y A VDD VDD sky130_fd_pr__pfet_01v8 w=2.00 l=0.15
.ends invx2

.subckt invx4 A Y VDD VSS
XMN Y A VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMP Y A VDD VDD sky130_fd_pr__pfet_01v8 w=4.00 l=0.15
.ends invx4

.subckt invx8 A Y VDD VSS
XMN Y A VSS VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMP Y A VDD VDD sky130_fd_pr__pfet_01v8 w=8.00 l=0.15
.ends invx8

* ── NAND2 Family ─────────────────────────────────────────────
* Pull-down: 2 NMOS in series (A top, B bottom)
* Pull-up:   2 PMOS in parallel

.subckt nand2x1 A B Y VDD VSS
XMN1 Y  A  mid VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN2 mid B  VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMP1 Y  A  VDD VDD sky130_fd_pr__pfet_01v8 w=1.00 l=0.15
XMP2 Y  B  VDD VDD sky130_fd_pr__pfet_01v8 w=1.00 l=0.15
.ends nand2x1

.subckt nand2x2 A B Y VDD VSS
XMN1 Y  A  mid VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN2 mid B  VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMP1 Y  A  VDD VDD sky130_fd_pr__pfet_01v8 w=2.00 l=0.15
XMP2 Y  B  VDD VDD sky130_fd_pr__pfet_01v8 w=2.00 l=0.15
.ends nand2x2

.subckt nand2x4 A B Y VDD VSS
XMN1 Y  A  mid VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMN2 mid B  VSS VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMP1 Y  A  VDD VDD sky130_fd_pr__pfet_01v8 w=4.00 l=0.15
XMP2 Y  B  VDD VDD sky130_fd_pr__pfet_01v8 w=4.00 l=0.15
.ends nand2x4

* ── NOR2 Family ──────────────────────────────────────────────
* Pull-up:   2 PMOS in series
* Pull-down: 2 NMOS in parallel

.subckt nor2x1 A B Y VDD VSS
XMP1 mid A  VDD VDD sky130_fd_pr__pfet_01v8 w=2.00 l=0.15
XMP2 Y   B  mid mid sky130_fd_pr__pfet_01v8 w=2.00 l=0.15
XMN1 Y   A  VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15
XMN2 Y   B  VSS VSS sky130_fd_pr__nfet_01v8 w=0.42 l=0.15
.ends nor2x1

.subckt nor2x2 A B Y VDD VSS
XMP1 mid A  VDD VDD sky130_fd_pr__pfet_01v8 w=4.00 l=0.15
XMP2 Y   B  mid mid sky130_fd_pr__pfet_01v8 w=4.00 l=0.15
XMN1 Y   A  VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN2 Y   B  VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
.ends nor2x2

.subckt nor2x4 A B Y VDD VSS
XMP1 mid A  VDD VDD sky130_fd_pr__pfet_01v8 w=8.00 l=0.15
XMP2 Y   B  mid mid sky130_fd_pr__pfet_01v8 w=8.00 l=0.15
XMN1 Y   A  VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN2 Y   B  VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
.ends nor2x4

* ── MAJ3 Family  (AOI: Y = NOT(AB + BC + AC)) ────────────
* Pull-down: 3 parallel branches, each 2 NMOS in series
* Pull-up  : 3 series stages, each 2 PMOS in parallel
*            Stage1: VDD->[A||B]->m1, Stage2: m1->[B||C]->m2, Stage3: m2->[A||C]->Y

.subckt maj3x1 A B C Y VDD VSS
* Pull-down
XMN_AB1 Y   A mAB VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN_AB2 mAB B VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN_BC1 Y   B mBC VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN_BC2 mBC C VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN_AC1 Y   A mAC VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
XMN_AC2 mAC C VSS VSS sky130_fd_pr__nfet_01v8 w=0.84 l=0.15
* Pull-up stage 1: VDD -> m1 (A||B)
XMP_A1  m1  A VDD VDD sky130_fd_pr__pfet_01v8 w=2.50 l=0.15
XMP_B1  m1  B VDD VDD sky130_fd_pr__pfet_01v8 w=2.50 l=0.15
* Pull-up stage 2: m1 -> m2 (B||C)  bulk=VDD
XMP_B2  m2  B m1  VDD sky130_fd_pr__pfet_01v8 w=2.50 l=0.15
XMP_C1  m2  C m1  VDD sky130_fd_pr__pfet_01v8 w=2.50 l=0.15
* Pull-up stage 3: m2 -> Y  (A||C)  bulk=VDD
XMP_A2  Y   A m2  VDD sky130_fd_pr__pfet_01v8 w=2.50 l=0.15
XMP_C2  Y   C m2  VDD sky130_fd_pr__pfet_01v8 w=2.50 l=0.15
.ends maj3x1

.subckt maj3x2 A B C Y VDD VSS
XMN_AB1 Y   A mAB VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN_AB2 mAB B VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN_BC1 Y   B mBC VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN_BC2 mBC C VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN_AC1 Y   A mAC VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMN_AC2 mAC C VSS VSS sky130_fd_pr__nfet_01v8 w=1.68 l=0.15
XMP_A1  m1  A VDD VDD sky130_fd_pr__pfet_01v8 w=5.00 l=0.15
XMP_B1  m1  B VDD VDD sky130_fd_pr__pfet_01v8 w=5.00 l=0.15
XMP_B2  m2  B m1  VDD sky130_fd_pr__pfet_01v8 w=5.00 l=0.15
XMP_C1  m2  C m1  VDD sky130_fd_pr__pfet_01v8 w=5.00 l=0.15
XMP_A2  Y   A m2  VDD sky130_fd_pr__pfet_01v8 w=5.00 l=0.15
XMP_C2  Y   C m2  VDD sky130_fd_pr__pfet_01v8 w=5.00 l=0.15
.ends maj3x2

.subckt maj3x4 A B C Y VDD VSS
XMN_AB1 Y   A mAB VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMN_AB2 mAB B VSS VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMN_BC1 Y   B mBC VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMN_BC2 mBC C VSS VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMN_AC1 Y   A mAC VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMN_AC2 mAC C VSS VSS sky130_fd_pr__nfet_01v8 w=3.36 l=0.15
XMP_A1  m1  A VDD VDD sky130_fd_pr__pfet_01v8 w=10.00 l=0.15
XMP_B1  m1  B VDD VDD sky130_fd_pr__pfet_01v8 w=10.00 l=0.15
XMP_B2  m2  B m1  VDD sky130_fd_pr__pfet_01v8 w=10.00 l=0.15
XMP_C1  m2  C m1  VDD sky130_fd_pr__pfet_01v8 w=10.00 l=0.15
XMP_A2  Y   A m2  VDD sky130_fd_pr__pfet_01v8 w=10.00 l=0.15
XMP_C2  Y   C m2  VDD sky130_fd_pr__pfet_01v8 w=10.00 l=0.15
.ends maj3x4
